US05216167
(u) Ethyl 2-ethoxy-4-[N-(6-methyl-α-phenyl-2-piperidinobenzyl)-aminocarbonylmethyl]-benzoate
Prepared from 6-methyl-α-phenyl-2-piperidino-benzylamine and 3-ethoxy-4-ethoxycarbonyl-phenylacetic acid.

reactant | 6-methyl-α-phenyl-2-piperidino-benzylamine | CC1=CC=CC(=C1C(C1=CC=CC=C1)N)N1CCCCC1 | C19H24N2
reactant | 3-ethoxy-4-ethoxycarbonyl-phenylacetic acid | C(C)OC=1C=C(C=CC1C(=O)OCC)CC(=O)O | C13H16O5
product | Ethyl 2-ethoxy-4-[N-(6-methyl-α-phenyl-2-piperidinobenzyl)-aminocarbonylmethyl]-benzoate | C(C)OC1=C(C(=O)OCC)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1C)N1CCCCC1)C1=CC=CC=C1 | C32H38N2O4
